US08623859B2
2-({Cyclopropyl[(4-methoxy-2,6-dimethylphenyl)sulfonyl]amino}methyl)-N-methyl-N-[2-(pyridin-4-yloxy)ethyl]-1,3-oxazole-4-carboxamide
The title compound was prepared according to general procedure AH using 2-({cyclopropyl[(4-methoxy-2,6-dimethylphenyl)sulfonyl]amino}methyl)-1,3-oxazole-4-carboxylic acid (50 mg, 0.13 mmol), EDCI (50 mg, 0.26 mmol), HOBt monohydrate (40 mg, 0.26 mmol), DIPEA (90 μL, 0.52 mmol), N-methyl-2-(pyridin-4-yloxy)ethanamine (20 mg, 0.13 mmol) and DMF (1 mL). The resulting crude compound was purified using prep method D.

reactant | 2-({cyclopropyl[(4-methoxy-2,6-dimethylphenyl)sulfonyl]amino}methyl)-1,3-oxazole-4-carboxylic acid | 0.13 mmol, 50 mg | C1(CC1)N(S(=O)(=O)C1=C(C=C(C=C1C)OC)C)CC=1OC=C(N1)C(=O)O | C17H20N2O6S
reactant | EDCI | 0.26 mmol, 50 mg | CCN=C=NCCCN(C)C | C8H17N3
reactant | HOBt monohydrate | 0.26 mmol, 40 mg | C1=CC=C2C(=C1)N=NN2O.O
reactant | DIPEA | 0.52 mmol, 90 μL | CCN(C(C)C)C(C)C | C8H19N
reactant | N-methyl-2-(pyridin-4-yloxy)ethanamine | 0.13 mmol, 20 mg | CNCCOC1=CC=NC=C1 | C8H12N2O
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | 2-({Cyclopropyl[(4-methoxy-2,6-dimethylphenyl)sulfonyl]amino}methyl)-N-methyl-N-[2-(pyridin-4-yloxy)ethyl]-1,3-oxazole-4-carboxamide | C1(CC1)N(S(=O)(=O)C1=C(C=C(C=C1C)OC)C)CC=1OC=C(N1)C(=O)N(CCOC1=CC=NC=C1)C | C25H30N4O6S
